US09079878B2
(3-{[(Benzyloxy)carbonyl]amino}oxetan-3-yl)acetic acid
tert-Butyl methyl ether (2.5 L) and an aqueous solution of sodium carbonate (750 g in 2.2 L water, 7.07 mol) were stirred. Ethyl (3-aminooxetan-3-yl)acetate (Preparation 30, 875 g, 5.5 mol) was added to the reaction followed by further tert-butyl methyl ether (2.5 L). The reaction was cooled to 5° C. and benzyl chloroformate (1.21 Kg, 7.09 mol) added in a controlled manner such as to maintain the temperature below 20° C. A precipitate was observed so further water (5 L) and tert-butyl methyl ether (1.5 L) were added to solubilise the reaction mixture. The biphasic mixture was separated. The organic layer was basified with 2M aqueous solution of sodium hydroxide (3.5 L) and stirred vigorously for 18 hours. The aqueous layer was separated and the remaining organic layer washed with water (1.5 L). The aqueous layers were combined and cooled to 15° C. Isopropyl acetate (5 L) was added followed by controlled addition of a 6M aqueous solution of hydrogen chloride (1.2 L), maintaining the temperature below 17° C. The reaction was stirred for 30 minutes. Solid crystallised out in the reactor so was dissolved in a mixture of ethyl acetate and methanol (˜20 L). The solution was stirred at room temperature for 18 hours. The reaction was concentrated in vacuo to afford solid material. Ethyl acetate (5 L) was added and concentrated in vacuo. Further ethyl acetate (5 L) was added and the slurry heated to reflux to give an orange solution. The solution was cooled to 50° C. and heptane (2.5 L) added. A thick slurry was observed that was stirred at room temperature for 18 hours. The solid was filtered and dried on a sinter for 3 hours before drying in vacuo at 40° C. for 18 hours to afford the title compound as a white crystalline solid (1.07 Kg, 73% yield).

reactant | sodium carbonate | 7.07 mol, 2.2 L, 750 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Ethyl (3-aminooxetan-3-yl)acetate | 5.5 mol, 875 g | NC1(COC1)CC(=O)OCC | C7H13NO3
reactant | benzyl chloroformate | 7.09 mol, 1.21 Kg | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | heptane | 2.5 L | CCCCCCC | C7H16
solvent | Ethyl acetate | 5 L | C(C)(=O)OCC | C4H8O2
solvent | tert-butyl methyl ether | 1.5 L | COC(C)(C)C | C5H12O
solvent | water | 5 L | O | H2O
solvent | tert-butyl methyl ether | 2.5 L | COC(C)(C)C | C5H12O
solvent | tert-Butyl methyl ether | 2.5 L | COC(C)(C)C | C5H12O
product | (3-{[(Benzyloxy)carbonyl]amino}oxetan-3-yl)acetic acid | 1.07 Kg, 73% yield | C(C1=CC=CC=C1)OC(=O)NC1(COC1)CC(=O)O | C13H15NO5
